US08629149B2
A mixture of 3,3-diphenylacrylonitrile (5.76 g, 28.1 mmol) and sodium hydroxide (11.2 g) in ethylene glycol (180 mL) and water (1 mL) were refluxed for 3 days. The reaction mixture was diluted with water (100 mL), acidified with 5N HCl to pH˜1, and extracted with ethyl acetate. The organic extract was washed with water, dried over sodium sulfate, and concentrated in vacuo. The crude material was purified by flash column chromatography ethyl acetate/hexanes to give 3,3-diphenylacrylic acid (5.1 g, 81%) as a white powder.

reactant | 3,3-diphenylacrylonitrile | 28.1 mmol, 5.76 g | C1(=CC=CC=C1)C(=CC#N)C1=CC=CC=C1 | C15H11N
reactant | sodium hydroxide | 11.2 g | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
reactant | ethylene glycol | 180 mL | C(CO)O | C2H6O2
solvent | water | 1 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 3,3-diphenylacrylic acid | 5.1 g, 81% | C1(=CC=CC=C1)C(=CC(=O)O)C1=CC=CC=C1 | C15H12O2
